US04521422
A mixture of 0.1 mole of 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one and a 0.15 mole of pyrrolidine in 200 ml of xylene was refluxed with distillation of the xylene by passing a stream of argon through the solution. Additional xylene was added periodically. After 10 hours the solvent was removed to give crude 3-(1-pyrrolidinyl)-1-(3-pyridinyl)-2-propen-1-one. This crude compound and 0.1 mole of (3-amino-1H-pyrazol-4-yl)-2-furanyl-methanone in 100 ml of glacial acetic acid was refluxed for 8 hours. The solvent was removed in vacuo and the product isolated as described in Example 1, giving the desired product as crystals, mp 228°-229° C.

reactant | 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one | 0.1 mole | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | pyrrolidine | 0.15 mole | N1CCCC1 | C4H9N
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(1-pyrrolidinyl)-1-(3-pyridinyl)-2-propen-1-one | N1(CCCC1)C=CC(=O)C=1C=NC=CC1 | C12H14N2O
